US09085583B2
Step 4: 1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
To the pre-cooled solution of tert-butyl 1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (3.0 g, 9.42 mmol) in CH2Cl2 (20 mL) was added trifluoroacetic acid (20 mL) dropwise. The solution was stirred at 27° C. for 1.5 hours. The solvent was removed under vacuum at 27° C. The residue was used for next step without purified. LCMS (M+H+) m/z: calcd 263.30. found 262.9.

reactant | tert-butyl 1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 9.42 mmol, 3.0 g | COC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)C | C18H26N2O3
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-methoxybutan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | COC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)O)C)C | C14H18N2O3
